US07067270B2
Synthesis of Theophylline-BSA and Production of Antibody
2 mg of theophylline-8-butanoic acid (Sigma) was dissolved in 4 ml of 0.1 M MES buffer solution. Thereafter, 7 mg of WSC hydrochloride and 5 mg of NHS were added thereto, and the mixture was stirred at room temperature for 15 minutes. Thereafter, 10 mg of BSA (Sigma) was dissolved in 2 ml of 0.1 M MES, and the obtained solution was added to the above reaction product. The obtained mixture was reacted at room temperature for 2 hours. 500 μl of a 1M Tris buffer solution (pH 7.5) was added to the mixture, and the reaction was terminated. Thereafter, dialysis was carried out against 0.1 M Tris buffer solution (pH 7.5).

reactant | theophylline-8-butanoic acid | 2 mg | N1(C)C(=O)N(C)C=2N=C(NC2C1=O)CCCC(=O)O | C11H14N4O4
reactant | WSC hydrochloride | 7 mg | CCN=C=NCCCN(C)C.Cl
reactant | Tris | 1M, pH 7.5 | C(C(CO)(CO)N)O | C4H11NO3
solvent | MES | 0.1 M, 4 ml | C1COCCN1CCS(=O)(=O)O | C6H13NO4S
solvent | MES | 0.1 M, 2 ml | C1COCCN1CCS(=O)(=O)O | C6H13NO4S
product | Theophylline | N1(C)C(=O)N(C)C=2N=CNC2C1=O | C7H8N4O2
